US07375126B2
N-(1-acetyl-1H-indazol-4-yl)-N′-(5,6-dimethoxy-2,3-dihydro-1H-inden-1-yl)urea
To the solution of 1-(5,6-dimethoxy-indan-1-yl)-3-(1H-indazol-4-yl)-urea (0.1 g, 0.28 mmol) in pyridine (2 mL) was added acetyl chloride (0.5 mL) and mixture stirred for 15 hours at ambient temperature. The mixture was suspended with ethyl acetate and filtered. The precipitate was triturated with ether twice and dried to obtain 42 mg (38%) of desired product as a yellow solid. NMR (DMSO-d6): 8.98 (s, 1H), 8.72 (s, 1H), 7.60 (d, J 7.5 Hz, 1H), 7.32-7.18 (m, 2H), 6.90 (d, J 8Hz, 2H), 6.53 (d, J 8 Hz, 1H), 5.16 (m, 1H), 3.76 (s, 3H), 3.72 (s, 3H), 3.00-2.70 (m, 5H), 2.43 (m, 1H), 1.82 (m, 1H). MS (DCI): 395 (M+1). Elemental: Calculated for C18H18N4O2.0.2 H2O: C 63.37, H 5.67, N 14.08; Found: C 63.07, H 5.49, N 13.94.

reactant | 1-(5,6-dimethoxy-indan-1-yl)-3-(1H-indazol-4-yl)-urea | 0.28 mmol, 0.1 g | COC=1C=C2CCC(C2=CC1OC)NC(=O)NC1=C2C=NNC2=CC=C1 | C19H20N4O3
reactant | acetyl chloride | 0.5 mL | C(C)(=O)Cl | C2H3ClO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | N-(1-acetyl-1H-indazol-4-yl)-N′-(5,6-dimethoxy-2,3-dihydro-1H-inden-1-yl)urea | 42 mg, 38% | C(C)(=O)N1N=CC2=C(C=CC=C12)NC(=O)NC1CCC2=CC(=C(C=C12)OC)OC | C21H22N4O4
